US04880809
To a mixture of 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)piperazine (1.2 g), triethylamine (0.5 g) and methylene chloride (20 ml) is added dropwise, with stirring under ice-cooling, a solution of 3,4,5-trimethoxybenzoyl chloride (1.0 g) in methylene chloride (25 ml). The reaction mixture is stirred for one hour at room temperature. The reaction mixture is pourd into ice-water (100 ml), and extracted with methylene chloride. The organic layer is washed with water, dried and concentrated under reduced pressure. The concentrate is crystallized from ethyl acetatehexane to give 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine (1.3 g), as obtained in Example 62, as colorless prisms, m.p. 164°-165° C.

reactant | 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)piperazine | 1.2 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2CCNCC2)C1)OC | C18H24N2O3
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
reactant | 3,4,5-trimethoxybenzoyl chloride | 1.0 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine | 1.3 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2CCN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C1)OC | C28H34N2O7
